US05037867
2-Benzyl-3-phenyl-5-methoxycarbonylisoxazolidine
A solution of 8.0 g (37.9 mmol) of N-benzylidenebenzylamine N-oxide and 6.69 g (77.7 mmol) of methyl acrylate in 20 ml of toluene is heated under reflux for 12 hours. The reaction mixture is evaporated under reduced pressure to give a pale yellow oil. Flash chromatography (silica gel, 2:1 heptane:ethyl acetate) affords 8.0 g of the title compound as a pale yellow oil.

reactant | N-benzylidenebenzylamine N-oxide | 37.9 mmol, 8.0 g | C(C1=CC=CC=C1)=[N+](CC1=CC=CC=C1)[O-] | C14H13NO
reactant | methyl acrylate | 77.7 mmol, 6.69 g | C(C=C)(=O)OC | C4H6O2
reactant | heptane | CCCCCCC | C7H16
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Benzyl-3-phenyl-5-methoxycarbonylisoxazolidine | 8.0 g | C(C1=CC=CC=C1)N1OC(CC1C1=CC=CC=C1)C(=O)OC | C18H19NO3
